US07612078B2
3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)-N-methyl benzamide
3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzoic acid (118 mg, 0.29 mmol) was heated in 3 mL of thionylchloride at 80° C. for 3 h. The reaction was cooled to room temperature and the thionylchloride was removed under reduced pressure. The residue obtained was dissolved in 25 mL of DCM followed by addition of methylamine hydrochloride (60 mg, 0.88 mmol) and DIEA (227 mg, 1.76 mmol). The reaction was allowed to stir at room temperature for 16 h and washed with 25 mL of water. The DCM layer was dried over Na2SO4 and evaporated under reduced pressure; the crude product was purified by silica chromatography in 5% MeOH-DCM to obtain 58 mg of product in 48% yield. 1H NMR (400 MHz, CDCl3) δ 8.43 (s, 1H), 7.76 (s, 1H), 7.65 (d, 1H), 7.45 (d, 1H), 7.39 (t, 1H), 7.02 (s, 1H), 6.22 (bs, 1H), 4.96 (bs, 1H), 4.18 (m, 1H), 3.57 (s, 2H), 3.03 (d, 3H), 2.87 (d, 2H), 2.23 (t, 2H), 2.08 (d, 2H), 1.59 (m, 2H); MS (ESI) m/z: Calculated for C20H23ClN5OS, 416.13; Observed: 416.2 (M++1).

reactant | 3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzoic acid | 0.29 mmol, 118 mg | ClC1=CC2=C(N=CN=C2NC2CCN(CC2)CC=2C=C(C(=O)O)C=CC2)S1 | C19H19ClN4O2S
reactant | methylamine hydrochloride | 0.88 mmol, 60 mg | Cl.CN
reactant | DIEA | 1.76 mmol, 227 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | thionylchloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)-N-methyl benzamide | 58 mg, 48% yield | ClC1=CC2=C(N=CN=C2NC2CCN(CC2)CC=2C=C(C(=O)NC)C=CC2)S1 | C20H22ClN5OS
